US05466701
6-hydroxy-4-isopropylsaccharin (30.0 g, 0.12 mol) in methanol was treated with Cs2CO3 (20.28 g, 0.062 mol). The mixture was stirred at ambient temperature for 3-4 hours, the excess methanol was removed under reduced pressure and the residue was dried under high vacuum. The residue was dissolved in DMF and chloromethyl phenyl sulfide (21.72 g, 0.14 mol) was added. The mixture was heated at 70°-80° C. for 24 hours, cooled, treated with ice-water and extracted with ethyl acetate/ether. The organic layer was washed with water, then brine and was dried. The solvent was removed in vacuo and the residue was purified by column chromatography on silica eluting with ethyl acetate/hexane to afford 30.5 g (67%) of 4-isopropyl-6-hydroxy-2-phenylthiomethylsaccharin.

reactant | 6-hydroxy-4-isopropylsaccharin | 0.12 mol, 30.0 g | OC1=CC(=C2C(NS(=O)(=O)C2=C1)=O)C(C)C | C10H11NO4S
reactant | Cs2CO3 | 0.062 mol, 20.28 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | chloromethyl phenyl sulfide | 0.14 mol, 21.72 g | C1(=CC=CC=C1)SCCl | C7H7ClS
solvent | methanol | CO | CH4O
product | 4-isopropyl-6-hydroxy-2-phenylthiomethylsaccharin | 30.5 g, 67% | C(C)(C)C1=C2C(N(S(=O)(=O)C2=CC(=C1)O)CSC1=CC=CC=C1)=O | C17H17NO4S2
